US04366160
A solution of 155.4 g of 2,4-dichloro-3-nitrophenol in 2 l of methylene chloride is treated with 16.9 g of benzyltrimethylammonium chloride. There is added thereto a solution of 44.8 g of sodium hydroxide in 1.8 l of water and, while stirring vigorously, 143 ml of dimethyl sulfate. After 1 hour, the organic phase is separated, washed with water, dried and evaporated in vacuo. There is obtained 2,4-dichloro-3-nitroanisole of melting point 97°-99° (hexane).

reactant | 2,4-dichloro-3-nitrophenol | 155.4 g | ClC1=C(C=CC(=C1[N+](=O)[O-])Cl)O | C6H3Cl2NO3
reactant | sodium hydroxide | 44.8 g | [OH-].[Na+]
reactant | dimethyl sulfate | 143 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methylene chloride | 2 l | C(Cl)Cl | CH2Cl2
catalyst | benzyltrimethylammonium chloride | 16.9 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | 1.8 l | O | H2O
product | 2,4-dichloro-3-nitroanisole | ClC1=C(C=CC(=C1[N+](=O)[O-])Cl)OC | C7H5Cl2NO3
